US05721234
1-Acetamido-7-benzylamino-5,6,7,8-tetrahydronaphthalene
A solution of 8-acetamido-2-tetralone (15.5 g. 76 mmol), benzylamine (16.3 g, 150 mmol) and tosic acid (0.2 g) in benzene (200 mL) and DMF (50 mL) was refluxed with a Dean-Stark trap attached for 18 h. The solvent was evaporated and the residue dissolved in 1:1 methanol:THF (250 mL). After cooling in an ice bath, sodium cyanoborohydride was added and the mixture warmed to room temperature and stirred for 5 h. The mixture was basified with 12.5% NaOH and the solvent concentrated. The residue was dissolved in methylene chloride:water and filtered through a celite pad. The aqueous layer was extracted with methylene chloride, and the combined organic layers were dried over sodium sulfate, filtered and evaporated. The dark residue was purified by column chromatography (9:1 EtOAc:methanol) to give the product (15 g).

reactant | 8-acetamido-2-tetralone | 76 mmol, 15.5 g | C(C)(=O)NC=1C=CC=C2CCC(CC12)=O | C12H13NO2
reactant | benzylamine | 150 mmol, 16.3 g | C(C1=CC=CC=C1)N | C7H9N
solvent | benzene | 200 mL | C1=CC=CC=C1 | C6H6
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
catalyst | tosic acid | 0.2 g | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
product | 1-Acetamido-7-benzylamino-5,6,7,8-tetrahydronaphthalene | 15 g | C(C)(=O)NC1=CC=CC=2CCC(CC12)NCC1=CC=CC=C1 | C19H22N2O
